US05073641
1METHYL-4-(BENZOYLOXYACETYL)PIPERAZINE HYDROCHLORIDE
A solution of 1-methylpiperazine (0.40 g, 4 mmole) in 5 ml benzene was added dropwise while stirring to a solution of (benzoyloxy)acetylchloride (0.80 g, 4 mmole) in 10 ml of benzene. After the addition was completed (about 10 min) the reaction mixture was stirred at room temperature for 1 h. Ether (10 ml) was added and the mixture was filtered. The white crystalline compound on the filter was washed with ether and finally recrystallized from ethanol, yielding 0.70 g (59%) of the title compound. Mp 227°-228° C.

reactant | 1-methylpiperazine | 4 mmole, 0.40 g | CN1CCNCC1 | C5H12N2
reactant | (benzoyloxy)acetylchloride | 4 mmole, 0.80 g | C(C1=CC=CC=C1)(=O)OCC(=O)Cl | C9H7ClO3
reactant | Ether | 10 ml | CCOCC | C4H10O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 1METHYL-4-(BENZOYLOXYACETYL)PIPERAZINE HYDROCHLORIDE | 0.70 g, 59% | Cl.CN1CCN(CC1)C(COC(C1=CC=CC=C1)=O)=O | InChI=1S/C14H18N2O3.ClH/c1-15-7-9-16(10-8-15)13(17)11-19-14(18)12-5-3-2-4-6-12;/h2-6H,7-11H2,1H3;1H
